Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding, pregnancy
 
Major Surgical or Invasive Procedure:
Dilation and curettage with uterine Foley balloon placement
Dilation and curettage with Bakri balloon placement
Uterine artery embolization
Transfusion of red blood cells, fresh frozen plasma, 
cryoprecipitate

 
History of Present Illness:
___ yo G3P1103 @ 11+4 by LMP c/w US transferred from ___ 
___ ___ VB with blood loss anemia.   She had 
intermittent bleeding/cramping over the last week.  VB increased 
substantially over the 3 days prior to admission.  Has a diff 
time quantifying however has been using towels at times because 
the bleeding was too heavy and she was soaking through her pad.  
Felt lightheaded intermittently as well as fatigued and 
occasionally SOB.  At ___ ED, noted to have active VB on 
speculum exam.  Felt lightheaded during exam and subsequently 
fainted.  Was hypotensive initially.  Found to have HCT 23 and 
viable IUP on US.  Had IV and foley placed and got IVF/ 1u PRBC. 
 She was subsequently transferred to ___ for further mgmt as 
she was unable to have a D&C @ OSH because there was a fetal 
heart rate.

On arrival to ED, VB substantially improved.  In ED her initial 
vitals were stable.  Another PUS was performed and she was again 
noted to have a viable SIUP, S=D, +FHR, with subchorionic 
hematoma.

ROS on admissino: +Fatigue though not currently dizzy/ SOB.  
+Cramping.  No fevers/chills.  Very anxious about potential for 
further bldg.  Desires termination of pregnancy given her fear 
she may have further bldg.

PNC: 
___ ___ by ___ = US
O+ ab neg
 
Past Medical History:
OBhx:
- c/s @ term, c/b "aspiration of amniotic fluid" with severe 
developmental delay/ disability
- c/s @ "6.5mo" for twins with ___/ IUGR.  twins doing well 
though 1 having surg for hypospadias in ___

GYN: 
- LMP ___
- reg menses
- denies h/o abn paps/ STI's

PMH: 
- HTN after last preg

PSH: 
- LTCS x 2

 
Social History:
Lives with mother in law, husband and children.  No tob/etoh/ 
drug use.  Denies h/o verbal/physical abuse.  Feels safe at 
home.  Moved to ___ from ___ within the past 
month.
 
Physical Exam:
Exam on admission:
T 97.6, HR 78, BP 117/55, RR 18, 100%RA
NAD
Abd soft, ND, mild TTP suprapubically
min blood on pad
SSE (per ED): old blood cleared from vault, no active VB, cx 
appeared closed
SVE: 1cm ext, closed internally, uncomf with exam but no uterine 
TTP

Exam on discharge:
Tm 99.3, Tc 98.3, HR 85, BP 106/58, RR 18, 99%RA
A&O, NARD
RRR
CTAB
Abd soft, mod TTP suprapubically without rebound/guarding, +BS
Min blood on pad
Ext nontender, no edema
 
Pertinent Results:
___ PELVIC ULTRASOUND
FINDINGS:  There is a live intrauterine pregnancy with a 
crown-rump length of 5.4 cm corresponding to a gestational age 
of 12 weeks 1 day.  The ovaries are normal in appearance 
bilaterally.  There is no free fluid.  The placenta is 
posterior.  There is note made of a small subchorionic hematoma 
which measures 2 cm x 3 cm.
IMPRESSION:
1.  Live IUP with size equal to dates.  Age based on ultrasound 
is 12 weeks 1 day, which corresponds satisfactorily to that 
based on LMP of 11 weeks 4 days.
2.  2 cm x 3 cm subchorionic hematoma near the uterine fundus.

___ CTA PELVIS
FINDINGS:  The lower uterine segment, cervix, and upper vagina 
are expanded by a heterogeneous dense collection of likely 
blood/blood products.  Unusually this collection does not extend 
into the upper/fundal portions of the endometrial cavity which 
appear relatively normal both in size and CT appearance. Given 
this appearance and thinning of the surrounding myometrium, 
concern is raised for possible eccentric location of these blood 
products, perhaps within the uterine wall.  In total it measures 
approximately 7.9 x 4.9 x 5.9 cm.  As mentioned, the fundal 
portion of the uterus appears unremarkable.  
The bladder contains Foley catheter and is otherwise 
unremarkable.  A trace amount of simple fluid is seen in the 
adnexa.  No dependent free pelvic fluid is seen.  The imaged 
bowel is unremarkable.  No free intraperitoneal air is seen.  No 
pelvic or inguinal adenopathy is seen.
CT arteriogram and venogram were also performed and demonstrate 
normal vessels without evidence of active extravasation or 
pooling of contrast to suggest active large vessel bleeding.
OSSEOUS STRUCTURES:  There is no lytic or sclerotic bony lesion 
concerning for osseous malignant process.
IMPRESSION:  Expansion of the lower uterine segment and cervix 
by large heterogeneously dense collection of likely blood or 
blood products with relative sparing of the upper uterus, 
raising concern for possible eccentric location of this 
collection including intramural location rather than endometrial 
location.  

___ UTERINE ARTERY EMBOLIZATION (PRELIMINARY REPORT)
FINDINGS:
1. Initial pelvic arteriography demonstrated the presence of a 
contrast blush in the expected location of the lower uterine 
segment on the left.
2. Selective left uterine arteriography demonstrated expected 
hypervascularity of a gravid uterus and confirmed the presence 
of a blush in the lower uterine segment on the left.
3. Post-embolization arteriography demonstrated near complete 
occlusion of the left uterine artery with no residual blush 
seen. Some normal supply to the upper portion of the uterus on 
the left persisted.
4. Right uterine artery arteriography demonstrated expected 
hypervascularity of a gravid uterus and also demonstrated 
collateral supply to the region of blush in the lower uterine 
segment on the left.
5. Post-embolization arteriography demonstrated occlusion of the 
right uterine artery with no residual supply to the left sided 
blush.
IMPRESSION:
1. Bilateral uterine artery embolization with gelatin sponge for 
refractory uterine bleeding following D&E.
2. A small area of blush from the left uterine artery was seen 
in the expected location of the lower uterine segment on the 
left with collateral supply from the right uterine artery. The 
blush was no longer present following embolization.

___ 05:52PM BLOOD WBC-12.0* RBC-3.16* Hgb-9.6* Hct-27.6* 
MCV-87 MCH-30.5 MCHC-34.9 RDW-13.6 Plt ___
___ 06:15AM BLOOD WBC-8.8 RBC-3.00* Hgb-9.0* Hct-25.8* 
MCV-86 MCH-30.2 MCHC-35.1* RDW-15.8* Plt ___
___ 03:05PM BLOOD WBC-12.9* RBC-2.91* Hgb-9.0* Hct-25.8* 
MCV-89 MCH-30.9 MCHC-34.8 RDW-13.4 Plt ___
___ 03:30PM BLOOD WBC-15.3* RBC-3.58* Hgb-11.0* Hct-31.4* 
MCV-88 MCH-30.7 MCHC-35.1* RDW-13.5 Plt ___
___ 06:25PM BLOOD WBC-12.4* RBC-3.64* Hgb-11.1* Hct-30.8* 
MCV-85 MCH-30.5 MCHC-36.1* RDW-14.3 Plt ___
___ 01:40AM BLOOD WBC-10.2 RBC-2.86* Hgb-8.7* Hct-24.6* 
MCV-86 MCH-30.4 MCHC-35.3* RDW-13.9 Plt ___
___ 06:20AM BLOOD WBC-7.6 RBC-2.65* Hgb-8.0* Hct-23.1* 
MCV-87 MCH-30.3 MCHC-34.7 RDW-14.0 Plt ___
___ 01:10PM BLOOD WBC-8.4 RBC-3.01* Hgb-9.3* Hct-25.7* 
MCV-86 MCH-30.8 MCHC-36.0* RDW-14.8 Plt ___
___ 04:11PM BLOOD WBC-8.7 RBC-3.45* Hgb-10.4* Hct-29.5* 
MCV-85 MCH-30.3 MCHC-35.4* RDW-15.0 Plt ___
___ 10:40PM BLOOD WBC-7.4 RBC-3.14* Hgb-9.5* Hct-27.1* 
MCV-86 MCH-30.2 MCHC-34.9 RDW-15.1 Plt ___
___ 06:15AM BLOOD WBC-9.2 RBC-3.11* Hgb-9.3* Hct-27.0* 
MCV-87 MCH-30.0 MCHC-34.5 RDW-15.2 Plt ___
___ 05:55AM BLOOD WBC-8.1 RBC-2.87* Hgb-8.7* Hct-25.6* 
MCV-89 MCH-30.3 MCHC-34.0 RDW-15.5 Plt ___
___ 01:10PM BLOOD WBC-8.7 RBC-3.04* Hgb-9.3* Hct-27.2* 
MCV-90 MCH-30.6 MCHC-34.1 RDW-14.7 Plt ___
___ 05:52PM BLOOD Neuts-69.1 ___ Monos-2.6 Eos-0.6 
Baso-0.3

___ 05:52PM BLOOD ___ PTT-21.3* ___
___ 03:05PM BLOOD ___ PTT-22.8* ___
___ 03:30PM BLOOD ___ PTT-25.1 ___
___ 06:25PM BLOOD ___ PTT-23.9* ___
___ 01:40AM BLOOD ___ PTT-24.0* ___
___ 06:20AM BLOOD ___ PTT-24.3* ___
___ 01:10PM BLOOD ___ PTT-25.3 ___
___ 04:11PM BLOOD ___ PTT-25.7 ___
___ 10:40PM BLOOD ___ PTT-24.5* ___
___ 06:15AM BLOOD ___ PTT-26.1 ___
___ 03:05PM BLOOD ___
___ 03:30PM BLOOD ___
___ 06:25PM BLOOD ___
___ 01:40AM BLOOD ___ 06:20AM BLOOD ___ 01:10PM BLOOD ___ 04:11PM BLOOD ___ 10:40PM BLOOD ___ 06:15AM BLOOD ___ 05:52PM BLOOD Glucose-77 UreaN-7 Creat-0.5 Na-136 K-3.6 
Cl-106 HCO3-20* AnGap-14
___ 03:05PM BLOOD Glucose-132* UreaN-6 Creat-0.4 Na-136 
K-4.2 Cl-109* HCO3-19* AnGap-12
___ 06:25PM BLOOD Glucose-112* UreaN-5* Creat-0.5 Na-137 
K-3.6 Cl-105 HCO3-20* AnGap-16
___ 06:20AM BLOOD Glucose-99 UreaN-4* Creat-0.6 Na-137 
K-3.8 Cl-106 HCO3-24 AnGap-11
___ 06:15AM BLOOD Glucose-73 UreaN-4* Creat-0.5 Na-138 
K-3.4 Cl-104 HCO3-24 AnGap-13
___ 06:25PM BLOOD Calcium-8.4 Phos-4.2 Mg-1.5*
___ 06:20AM BLOOD Calcium-8.2* Phos-3.7 Mg-2.0
___ 06:15AM BLOOD Calcium-8.0* Phos-4.0 Mg-1.9
 
Brief Hospital Course:
Ms ___ was admitted to the gynecology service for management 
of her hemorrhage and threatened abortion. Her bleeding had 
stabilized on admission, she was admitted for observation. 

After extensive counseling and consideration of her various 
options, she elected to terminate the pregnancy. On hospital day 
#2 a dilation and curettage was performed; please see operative 
report for full details of the procedure. There was an 
intraoperative hemorrhage with an estimated blood loss of 1000mL 
necessitating uterotonics, intrauterine Foley balloon and 
vaginal packing for tamponade. She was transfused two units of 
pRBCs and transferred to the PACU in stable condition.

In the PACU, she gradually became hypotensive to the ___. 
There was a small amount of bleeding from the intrauterine Foley 
catheter; however, a bedside ultrasound revealed a significant 
hematometra. She was resuscitated with IV fluids, two additional 
units of pRBCs and Hespan. She did not have any laboratory 
evidence of DIC and she returned to the operating room for 
repeat dilation and curettage under ultrasound guidance. Please 
see operative report for full details of the procedure. The 
hematometra was evacuated and an intrauterine Bakri balloon was 
placed. She was trasnfused one additional unit of pRBCs, two 
units FFP, and two units cryoprecipitate, and she was 
transferred to the PACU in stable condition.

She remained clinically stable overnight. On hospital day #3 
(postoperative day #1) the Bakri balloon was noted to be in the 
vagina and it was removed. Her hematocrit declined over the 
course of the day, from 31% to 23%. She was transfused one 
additional unit of pRBCs. A bedside ultrasound revealed clot in 
the uterus. Given the concern for continued bleeding, after 
extensive counseling she underwent bilateral uterine artery 
embolization.

Following the embolization procedure she remained clinically 
stable for the rest of her hospitalization. She passed the clot 
and her hematocrit remained at 27% over hospital days #4 and 5 
(postoperative days #2 and 3). She was given Depo Provera for 
contraception and was discharged home on hospital day #5 in 
stable condition, with close outpatient followup scheduled.
 
Medications on Admission:
none
 
Discharge Medications:
1. ferrous sulfate 325 mg (65 mg iron) Tablet Sig: Two (2) 
Tablet PO twice a day.
Disp:*60 Tablet(s)* Refills:*0*
2. Cepacol Sore Throat ___ mg Lozenge Sig: ___ lozenges 
Mucous membrane four times a day as needed for sore throat.
Disp:*60 lozenges* Refills:*0*
3. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.
Disp:*120 Tablet(s)* Refills:*0*
4. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*
5. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
6. hydromorphone 2 mg Tablet Sig: One (1) Tablet PO every ___ 
hours as needed for pain: This may make you sleepy; do not drive 
while taking it.
Disp:*10 Tablet(s)* Refills:*0*
7. Methergine 0.2 mg Tablet Sig: One (1) Tablet PO three times a 
day for 3 days.
Disp:*9 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Inevitable abortion (miscarriage)
Hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were transferred to ___ 
after you went to the emergency room with bleeding in pregnancy. 
The bleeding became dangerous and you had two surgeries to clean 
the uterus and stop the bleeding. You received transfusions and 
the uterine arteries were embolized. Your bleeding stopped and 
your blood counts are stable. It is now safe for you to be 
discharged home. We have given you a prescription for iron to 
take at home.

It would be extremely dangerous for you to become pregnant 
again. You were given an injection of Depo-Provera 
(contraceptive) prior to discharge and this injection will 
protect you from pregnancy for 3 months. Please discuss 
contraception with Dr. ___ you return for your 
appointment. You were given a taxi voucher for transportation to 
this appointment.

Please follow these instructions:
* Take your medications as prescribed.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex), no 
heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

 
Followup Instructions:
___